US07271276B2
Synthesis of 4-Stilbenecarboxaldehyde.
General Procedures for the Heck Reactions. A Schlenk flask was charged with 3a or 3b (1.0 mg for each single experiment) along with an appropriate amount of aryl halide (1.0 equiv), styrene (1.1 equiv), MeNCy2 (1.1 equiv), and NMP (2 mL) and a magnetic stir bar. The flask was capped with a stopper and heated in an oil bath at 160° C. with stirring for a specified period of time. After the reaction mixture was cooled to room temperature, hydrochloric acid (1M, 6 mL) was added and the product was extracted with diethyl ether (15 mL—3). The aqueous solution was separated from the organic layer. The diethyl ether solution was washed with deionized water (15 mL—3), dried over MgSO4, and evaporated to dryness under reduced pressure to afford the desired product, which was then washed with hexane (5 mL—3) or subject to flash column chromatography on silica gel. For experiments with low catalyst loading (entries 2-5), stock solutions of appropriate concentrations were prepared by dissolving 1.0 mg of [PNP]PdCl in appropriate amounts of NMP and used for each independent run.

reactant | styrene | 1.1 equiv | C=CC1=CC=CC=C1 | C8H8
reactant | MeNCy2 | 1.1 equiv | CN(C1CCCCC1)C1CCCCC1 | C13H25N
reactant | hydrochloric acid | 1M, 6 mL | Cl | ClH
reactant | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 4-Stilbenecarboxaldehyde | C1(=CC=C(C=C1)C=O)C=CC1=CC=CC=C1 | C15H12O
